US08293768B2
Synthesis of ethyl 3-methyl-5-(2-oxo-3-(2-oxo-2-phenylethyl)imidazolidin-1-yl)thiophene-2-carboxylate
Following the procedure as described in Example 50, making variations as required to replace (2-bromoethoxy)(tert-butyl)dimethylsilane with 2-bromoacetophenone to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 39% yield: 1H NMR (300 MHz, CDCl3) δ 7.95 (d, J=8.3 Hz, 2H), 7.60-7.56 (m, 1H), 7.52-7.44 (m, 2H), 6.18 (s, 1H), 4.73 (s, 2H), 4.24 (q, J=7.1 Hz, 2H), 3.94-3.86 (m, 2H), 3.76-3.68 (m, 2H), 2.48 (s, 3H), 1.30 (t, J=7.1 Hz, 3H); MS (ES+) m/z 373.2 (M+1).

reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | 2-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 3-methyl-5-(2-oxo-3-(2-oxo-2-phenylethyl)imidazolidin-1-yl)thiophene-2-carboxylate | 39% yield | CC1=C(SC(=C1)N1C(N(CC1)CC(C1=CC=CC=C1)=O)=O)C(=O)OCC | C19H20N2O4S
